US05486466
A solution of 5.00 g of allyl 4-allyl-3,5-dihydroxy-2,6-dimethylbenzoate in 80 ml of ethyl acetate was cooled to 0° C., and then treated with 90 mg of palladium acetate and 332 mg of triethyl phosphite. After stirring for 5 minutes, 2.04 g of N-methylpyrrolidine were added, a precipitate being formed immediately. Stirring was continued at 0° C., and then, the mixture was partitioned between ethyl acetate and 1N hydrochloric acid. The organic layer was washed with brine, dried over sodium sulfate, and the solvent was evaporated in vacuo. The residual oil was dissolved in 50 ml of ethyl acetate, and the solution was hydrogenated at atmospheric pressure for 1 hour in the presence of 100 mg of 5% palladium on charcoal. The catalyst was filtered off, and the solvent was evaporated in vacuo to yield 3.36 g of 3,5-dihydroxy-2,6-dimethyl-4-propylbenzoic acid as a coulourless oil.

reactant | allyl 4-allyl-3,5-dihydroxy-2,6-dimethylbenzoate | 5.00 g | C(C=C)C1=C(C(=C(C(=O)OCC=C)C(=C1O)C)C)O | C15H18O4
reactant | triethyl phosphite | 332 mg | P(OCC)(OCC)OCC | C6H15O3P
reactant | N-methylpyrrolidine | 2.04 g | CN1CCCC1 | C5H11N
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 90 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3,5-dihydroxy-2,6-dimethyl-4-propylbenzoic acid | 3.36 g | OC=1C(=C(C(=O)O)C(=C(C1CCC)O)C)C | C12H16O4
